US08003785B2
A mixture of 0.05 g (0.17 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.04 g (0.20 mmole) of 4-amino-N-(tetrahydro-pyran-4-yl)-benzamide and 0.05 g (0.25 mmole) of p-toluenesulfonic acid monohydrate in 4.0 mL of 2-propanol was heated at 160 degrees for 2 hours in a microwave reactor. The cooled mixture was then concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane, and the combined organic layers washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was washed with water and dried to give 0.070 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(tetrahydro-pyran-4-yl)-benzamide (I-136).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.17 mmole, 0.05 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCC2)N1 | C12H13ClF2N4O
reactant | 4-amino-N-(tetrahydro-pyran-4-yl)-benzamide | 0.20 mmole, 0.04 g | NC1=CC=C(C(=O)NC2CCOCC2)C=C1 | C12H16N2O2
reactant | p-toluenesulfonic acid monohydrate | 0.25 mmole, 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(tetrahydro-pyran-4-yl)-benzamide | 0.070 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=CC=C(C(=O)NC1CCOCC1)C=C2 | C24H28F2N6O3
